US07674807B2
5-Trifluoromethyl-1H-(1,2,4)-triazole-3-thiol (11.0 g), heptafluoro-1-iodopropane (3.5 g) and triethylamine (0.90 g) were stirred in DMF (10 ml) at 90° C. for 24 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and washed with water and saturated aqueous solution of sodium chloride. After drying the organic layer with magnesium sulfate, the solvent was distilled off under the reduced pressure to obtain 3-heptafluoropropylsulfanyl-5-trifluoromethyl-1H-(1,2,4)-triazole (0.70 g).

reactant | 5-Trifluoromethyl-1H-(1,2,4)-triazole-3-thiol | 11.0 g | FC(C1=NC(=NN1)S)(F)F | C3H2F3N3S
reactant | heptafluoro-1-iodopropane | 3.5 g | FC(C(C(I)(F)F)(F)F)(F)F | C3F7I
reactant | triethylamine | 0.90 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-heptafluoropropylsulfanyl-5-trifluoromethyl-1H-(1,2,4)-triazole | 0.70 g | FC(C(F)(F)SC1=NNC(=N1)C(F)(F)F)(C(F)(F)F)F | C6HF10N3S
